US07544701B2
Preparation of 3-(Naphth-2-ylsulfonyl)-1-piperidin-4-yl-1,3-dihydrobenzimidazol-2-one
A solution of 4-(2-oxo-2,3-dihydrobenzimidazol-1-yl)piperidine-1-carboxylic acid t-butyl ester (64 mg, 0.2 mmol) in CH2Cl2 at room temperature is treated with 2-naphthylsulfonyl chloride (50 mg, 0.2 mmol) followed by diisopropylethylamine (174 uL, 1.0 mmol) and 4-dimethylaminopyridine (24 mg, 0.2 mmol), stirred at 60° C. for 16 h and concentrated in vacuo. The resultant residue is dissolved in THF, treated with HCl in dioxane (4 N) (1 mL), stirred for 4 h and concentrated in vacuo. This residue is dissolved in a mixture of DMSO, methanol and water and purified by Gilson1 preparative HPLC to give the title product, 24 mg, [M+H] 408, retention time (RT) 1.89 minutes. 1Gilson Preparative HPLC conditions: Gilson Preparative HPLC system; YMC Pro C18, 20 mm×50 mm ID, 5 uM column; 2 mL injection; Solvent A: 0.02% TFA/water; Solvent B: 0.02% TFA/acetonitrile; Gradient: Time 0: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD.

reactant | 4-(2-oxo-2,3-dihydrobenzimidazol-1-yl)piperidine-1-carboxylic acid t-butyl ester | 0.2 mmol, 64 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
reactant | 2-naphthylsulfonyl chloride | 0.2 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | diisopropylethylamine | 1.0 mmol, 174 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.2 mmol, 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(Naphth-2-ylsulfonyl)-1-piperidin-4-yl-1,3-dihydrobenzimidazol-2-one | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1C(N(C2=C1C=CC=C2)C2CCNCC2)=O | C22H21N3O3S
